US05196140
0.1 mol of dicyclohexylcarbodiimide (DCC) in 30 ml of CH2Cl2 is added with stirring at about 10° to a mixture of 0.1 mol of 4-(pentafluoroethyl)-phenol (preparation analogously to Bull. Chem. Soc. Japan, 57 (1984) 3361), 0.1 mol of trans-4-(trans-4-pentylcyclohexyl)-cyclohexanecarboxylic acid and 0.01 mol of dimethylamino-pyridine and 150 ml of CH2Cl2, and the mixture is then stirred for 15 hours at room temperature. It is filtered over silica gel, the solvent is evaporated and further purification gives 4-(pentafluoroethyl)-phenyl trans-4-(trans-4-pentylcyclohexyl)-cyclohexanoate.

reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(pentafluoroethyl)-phenol | 0.1 mol | FC(C(F)(F)F)(C1=CC=C(C=C1)O)F | C8H5F5O
reactant | trans-4-(trans-4-pentylcyclohexyl)-cyclohexanecarboxylic acid | 0.1 mol | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C18H32O2
reactant | dimethylamino-pyridine | 0.01 mol | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(pentafluoroethyl)-phenyl trans-4-(trans-4-pentylcyclohexyl)-cyclohexanoate | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C(C(F)(F)F)(F)F | C26H35F5O2
